US08580833B2
A mixture of acetic acid 4-(2-{[4-(4-chloro-phenoxy)-phenyl]-pentanoyl-amino}-acetyl)-phenyl ester (from above, based on 200 mmol) with ammonium acetate (308 g, 4000 mmol, 20.0 eq) in acetic acid (300 mL) was stirred at 100-110° C. overnight. After completion of the reaction (indicated by HPLC), the mixture was cooled below 60° C. and poured over ice. After stirring, the solid was filtered, washed with diethyl ether (twice), ethyl acetate (twice), ether (once) and air dried, yielding ˜55.0 g (65.6%) of 4-{2-butyl-1-[4-(4-chloro-phenoxy)-phenyl]-1H-imidazol-4-yl}-phenol as a finely divided off-white solid.

reactant | acetic acid 4-(2-{[4-(4-chloro-phenoxy)-phenyl]-pentanoyl-amino}-acetyl)-phenyl ester | 200 mmol | ClC1=CC=C(OC2=CC=C(C=C2)N(CC(=O)C2=CC=C(C=C2)OC(C)=O)C(CCCC)=O)C=C1 | C27H26ClNO5
reactant | ammonium acetate | 4000 mmol, 308 g, 20.0 eq | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
product | 4-{2-butyl-1-[4-(4-chloro-phenoxy)-phenyl]-1H-imidazol-4-yl}-phenol | ˜55.0 g, 65.6% | C(CCC)C=1N(C=C(N1)C1=CC=C(C=C1)O)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C25H23ClN2O2
